US08071595B2
To a 0° C. solution of methyl 1-(2-(4-(quinolin-2-ylmethoxy)phenyl)acetoxy)cyclopropanecarboxylate (2.0 g, 6.825 mmol) in DMF (20 mL), NaH (49 mg, 20.477 mol) was added nd the mixture was stirred at RT for 12 h. After complete consumption of the starting material (monitored by TLC), the reaction mixture was quenched with ice water (3 mL) and the aqueous layer was extracted with EtOAc (2×50 mL). The combined organic layers were washed with water (30 mL) and brine (20 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo to afford crude 7-hydroxy-6-(4-(quinolin-2-ylmethoxy)phenyl)-4-oxaspiro[2.4]hept-6-en-5-one (2.0 g, 83%) as a light yellow solid.

reactant | methyl 1-(2-(4-(quinolin-2-ylmethoxy)phenyl)acetoxy)cyclopropanecarboxylate | 6.825 mmol, 2.0 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)CC(=O)OC1(CC1)C(=O)OC | C23H21NO5
reactant | NaH | 20.477 mol, 49 mg | [H-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 7-hydroxy-6-(4-(quinolin-2-ylmethoxy)phenyl)-4-oxaspiro[2.4]hept-6-en-5-one | 2.0 g, 83% | OC1=C(C(OC12CC2)=O)C2=CC=C(C=C2)OCC2=NC1=CC=CC=C1C=C2 | C22H17NO4
